US07067537B2
i) Production of 3-methyl-1-(4-methylpyridin-3-yl)butan-1-one
A solution of 4-methylnicotinonitrile (5.00 g) in diethyl ether (75 ml) was cooled to 5C and a solution (ca. 0.8 M, 78 ml) of isobutylmagnesium bromide in diethyl ether was gradually added thereto. The mixture was heated under reflux for 24 hrs. and added to 1N hydrochloric acid (400 ml). The mixture was stirred at room temperature for 2 hrs. The reaction mixture was neutralized, and extracted with ethyl acetate. The organic layer was dried and concentrated, and the residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=3:1) for purification to give the title compound (3.20 g) as a pale-yellow oil.

reactant | 4-methylnicotinonitrile | 5.00 g | CC1=CC=NC=C1C#N | C7H6N2
reactant | isobutylmagnesium bromide | ca. 0.8 M, 78 ml | C(C(C)C)[Mg]Br
reactant | hydrochloric acid | 1N, 400 ml | Cl | ClH
reactant | diethyl ether | 75 ml | C(C)OCC | C4H10O
product | 3-methyl-1-(4-methylpyridin-3-yl)butan-1-one | 3.20 g | CC(CC(=O)C=1C=NC=CC1C)C | C11H15NO
